US07700594B2
A suspension of 1,2-phenylenediamine (60 mg, 0.6mmol) in toluene (2.0 mL) was treated with a 2M solution of trimethylaluminum in toluene (0.5mL) effecting the formation of a pink solution. After 5 min this solution was treated with solid methyl 8-amino-3-cyclobutylimidazo[1,5-a]pyrazine-1-carboxylate (30 mg, 0.1 mmol) and the mixture heated at 120° C. for 30 min then stirred at rt overnight. The mixture was then partitioned between 2M NaOH (10 mL) & EtOAc (10 mL) and stirred for 15 min. The organic layer was separated and the aqueous layer extracted further with EtOAc (3×10 mL). The combined organics were washed with brine, dried and concentrated in vacuo to give ˜85% pure 8-amino-N-(2-aminophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine-1-carboxamide which was used without purification.

reactant | 1,2-phenylenediamine | 0.6mmol, 60 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | trimethylaluminum | C[Al](C)C
reactant | methyl 8-amino-3-cyclobutylimidazo[1,5-a]pyrazine-1-carboxylate | 0.1 mmol, 30 mg | NC=1C=2N(C=CN1)C(=NC2C(=O)OC)C2CCC2 | C12H14N4O2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.5mL | C1(=CC=CC=C1)C | C7H8
product | 8-amino-N-(2-aminophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine-1-carboxamide | ~85% | NC=1C=2N(C=CN1)C(=NC2C(=O)NC2=C(C=CC=C2)N)C2CCC2 | C17H18N6O
